US06114527
Process for the Preparation of [3-(dimethylamino)-2-azaprop-2-en-1-ylidene]dimethylammonium chloride (Gold's Reagent)
Cyanuric chloride (46.67 g, 0.252 mol) was heated with N,N-dimethylformamide (121.33 g, 1.66 mol) in 250 ml of tert-butyl methyl ether over the course of from 30 to 40 min. An exothermic reaction then took place, and CO2 gas was liberated over the course of from 1 to 2 hours. The reaction mixture was boiled overnight. After the reaction mixture had cooled, the title product was isolated by rapid filtration under a nitrogen atmosphere and washing with tert-butyl methyl ether. Drying in a desiccator gave the title product in a yield of from 112.15 g (90.7%) in the form of a pale yellow solid.

reactant | Cyanuric chloride | 0.252 mol, 46.67 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | N,N-dimethylformamide | 1.66 mol, 121.33 g | CN(C=O)C | C3H7NO
reactant | CO2 | C(=O)=O | CO2
solvent | tert-butyl methyl ether | 250 ml | COC(C)(C)C | C5H12O
product | [3-(dimethylamino)-2-azaprop-2-en-1-ylidene]dimethylammonium chloride | [Cl-].CN(C=NC=[N+](C)C)C | InChI=1S/C6H14N3.ClH/c1-8(2)5-7-6-9(3)4;/h5-6H,1-4H3;1H/q+1;/p-1
